US07612055B2
2) (S)-3-(3-Iodo-benzylsulfanyl)-2-methyl-propionic acid
The title compound is prepared similarly to (S)-3-hex-5-enylsulfanyl-2-methyl-propionic acid (IIa), using 1-bromomethyl-3-iodo-benzene instead of 6-bromo-hex-1-ene.

reactant | (S)-3-hex-5-enylsulfanyl-2-methyl-propionic acid | C(CCCC=C)SC[C@H](C(=O)O)C | C10H18O2S
reactant | 1-bromomethyl-3-iodo-benzene | BrCC1=CC(=CC=C1)I | C7H6BrI
product | (S)-3-(3-Iodo-benzylsulfanyl)-2-methyl-propionic acid | IC=1C=C(CSC[C@H](C(=O)O)C)C=CC1 | C11H13IO2S
